US05250712
3.8 g of 3,3;17,17-bis(ethylenedioxy)-1-methylene-5α-androstane-15α-carbaldehyde in 46 ml of dimethylformamide is stirred under argon with 3.0 g of trimethylsulfonium iodide and 2.3 g of potassium tert-butylate at room temperature. After 30 minutes the reaction mixture is added to ice/water. The precipitated product is suctioned off, dissolved in dichloromethane, washed neutral with water. 3.5 g of 3,3;17,17-bis(ethylenedioxy)-1-methylene-15α-(2-oxiranyl)5α-androstane is obtained as foam.

reactant | 17,17-bis(ethylenedioxy)-1-methylene-5α-androstane-15α-carbaldehyde | C1OC23[C@]4(C)[C@@H]([C@H](C2(OCCO3)OC1)C=O)[C@@H]1CC[C@H]3CCCC([C@]3(C)[C@H]1CC4)=C | C25H36O5
reactant | trimethylsulfonium iodide | 3.0 g | [I-].C[S+](C)C
reactant | potassium tert-butylate | 2.3 g | CC(C)(C)[O-].[K+]
solvent | dimethylformamide | 46 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 17,17-bis(ethylenedioxy)-1-methylene-15α-(2-oxiranyl)5α-androstane | C1OC23[C@]4(C)[C@@H]([C@H](C2(OCCO3)OC1)C1OC1)[C@@H]1CC[C@H]3CCCC([C@]3(C)[C@H]1CC4)=C | C26H38O5
